US08623340B2
A mixture of cinnamaldehyde (400 g) and valeraldehyde (300 g) was added to a solution of 52 g of NaOH in 1950 g methanol over a period of 2 hours. After the addition is completed, stirring was continued for another 2 hours. The reaction mixture was washed with water, the solvent removed and the resulting product distilled. 412 g 2-n-Propyl-5-phenylpenta-2,4-dienal were obtained as a yellowish oil (content 90%; 60% theoretical yield).

reactant | cinnamaldehyde | 400 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | valeraldehyde | 300 g | C(CCCC)=O | C5H10O
reactant | NaOH | 52 g | [OH-].[Na+]
solvent | methanol | 1950 g | CO | CH4O
product | 2-n-Propyl-5-phenylpenta-2,4-dienal | 412 g | C(CC)C(C=O)=CC=CC1=CC=CC=C1 | C14H16O
